US06093731
CF3CO2H (1.0 mL) was added to a stirred solution of N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(4-pyridylmethyl)glycine t-butyl ester (88 mg, 0.17 mmol) in CH2Cl2 (1.0 mL) and the mixture was stirred at 23° C. for 3.5 h. The solvents were evaporated in vacuo, azeotroping with CH2Cl2. The oily residue was dissolved in CH2Cl2 -MeOH (1.0 mL, 9:1) and a solution of EtOAc saturated with HCl (3.0 mL) was added which gave a precipitate. The white solid was collected by filtration and dried to give N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(4-pyridylmethyl)glycine dihydrochloride (18 mg, 0.033 mmol).

reactant | CF3CO2H | 1.0 mL | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(4-pyridylmethyl)glycine t-butyl ester | 0.17 mmol, 88 mg | C(C)(C)(C)OC(CN(CC1=CC=NC=C1)S(=O)(=O)C1=CC=C2C(=CN=C(C2=C1)NC(=N)N)Cl)=O | C22H25ClN6O4S
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-chloro-1-guanidino-7-isoquinolinyl)sulphonyl]-N-(4-pyridylmethyl)glycine dihydrochloride | 0.033 mmol, 18 mg | Cl.Cl.ClC1=CN=C(C2=CC(=CC=C12)S(=O)(=O)N(CC(=O)O)CC1=CC=NC=C1)NC(=N)N | InChI=1S/C18H17ClN6O4S.2ClH/c19-15-8-23-17(24-18(20)21)14-7-12(1-2-13(14)15)30(28,29)25(10-16(26)27)9-11-3-5-22-6-4-11;;/h1-8H,9-10H2,(H,26,27)(H4,20,21,23,24);2*1H
